US08735434B2
tert-butyl 4′-oxo-4′H-spiro[cyclobutane-1,6′-furo[3,4-d][1,3]thiazol]-2′-ylcarbamate
Methyl 2-(tert-butoxycarbonylamino)thiazole-4-carboxylate (purchased from Combi-Blocks), diisopropylamine, butyllithium, and cyclobutanone (purchased from Aldrich) were processed using the procedure as described for Example 3D to obtain the title compound. MS (ESI+) m/z 297 (M+H)+

reactant | Methyl 2-(tert-butoxycarbonylamino)thiazole-4-carboxylate | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(=O)OC | C10H14N2O4S
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | tert-butyl 4′-oxo-4′H-spiro[cyclobutane-1,6′-furo[3,4-d][1,3]thiazol]-2′-ylcarbamate | O=C1OC2(C3=C1N=C(S3)NC(OC(C)(C)C)=O)CCC2 | C13H16N2O4S
